US04647566
Diethyl N-(1,4-dioxaspiro[4.5]decen-8-yl)aminomethylenemalonate (53 g) in 100 ml of Dowtherm is added to 400 ml of Dowtherm at reflux and the mixture is heated at 250° for 45 minutes. The low boiling distillate is collected in a Dean-Stark trap. After cooling to room temperature, the mixture is evaporated to dryness in vacuo, and the residue is triturated with Et2O to give ethyl 4-hydroxy-6-oxo-5,6,7,8-tetrahydroquinoline-3-carboxylate ethylene ketal.

reactant | Diethyl N-(1,4-dioxaspiro[4.5]decen-8-yl)aminomethylenemalonate | 53 g | O1C=COC12CCC(CC2)NC=C(C(=O)OCC)C(=O)OCC | C16H23NO6
reactant | Dowtherm | 100 ml | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
reactant | Dowtherm | 400 ml | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | ethyl 4-hydroxy-6-oxo-5,6,7,8-tetrahydroquinoline-3-carboxylate ethylene ketal | C1COC(OCC)(C=2C=NC=3CCC(CC3C2O)=O)O1 | C14H17NO5
